US08623877B2
2-(2-Bromo-pyrimidin-5-yl)-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline
The title compound was synthesized in substantially the same way as Example 1 by condensation of 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline with 2,5-dibromo-pyrimidine.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 2,5-dibromo-pyrimidine | BrC1=NC=C(C=N1)Br | C4H2Br2N2
product | 2-(2-Bromo-pyrimidin-5-yl)-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | BrC1=NC=C(C=N1)N1CC2=CC=C(C=C2CC1)N1C[C@H](CC1)N1[C@H](CCC1)C | C22H28BrN5
